US08461348B2
ethyl 1-[4-(chloromethyl)-1,3-thiazol-2-yl]-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate
A mixture of ethyl 4,4,4-trifluoroacetoacetate (28.56 g), ethyl orthoformate (40 mL) and acetic anhydride (45 ml) was heated under reflux for 4 hr, and cooled to room temperature. Ethanol (240 ml) and thiosemicarbazide (10.95 g) were added, and the mixture was stirred at room temperature for 2 hr. 1,3-Dichloropropanone (15.20 g) was added, and the mixture was further heated under reflux for 16 hr, cooled to room temperature, and diluted with ethyl acetate and water. The ethyl acetate layer was separated, washed with saturated aqueous sodium hydrogen carbonate, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give a crude title compound (11.4 g) as crystals

reactant | ethyl 4,4,4-trifluoroacetoacetate | 28.56 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ethyl orthoformate | 40 mL | C(OCC)([O-])[O-]
reactant | acetic anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | thiosemicarbazide | 10.95 g | NNC(=S)N | CH5N3S
reactant | 1,3-Dichloropropanone | 15.20 g | ClCC(CCl)=O | C3H4Cl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | Ethanol | 240 ml | C(C)O | C2H6O
product | ethyl 1-[4-(chloromethyl)-1,3-thiazol-2-yl]-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 11.4 g | ClCC=1N=C(SC1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C11H9ClF3N3O2S
